US05217971
A mixture of 1,2-bis(4-methoxyphenyl)-2-chloroethanone (11.05 g) and 2-(N,N-dimethylamino)ethanethioamide 5.39 g) in ethanol (100 ml) was refluxed for 2 hours. After allowing to cool to room temperature, the solvent was evaporated in vacuo, and the residue was dissolved in chloroform (500 ml) and aqueous solution of sodium hydrogencarbonte (500 ml). The separated organic layer was washed with water and brine, dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The resulting residue was dissolved in diethyl ether, added ethanol solution of hydrogen chloride, and the resulting precipitate was collected by filtration. The resulting crude compound was recrystallized with ethanol (30 ml). And the resulting crystal was collected by filtration, washed with ethanol and diethyl ether, and dried to give 4,5-bis(4-methoxyphenyl)-2-(N,N-dimethylaminomethyl)thiazole hydrochloride (2.85 g).

reactant | 1,2-bis(4-methoxyphenyl)-2-chloroethanone | 11.05 g | COC1=CC=C(C=C1)C(C(Cl)C1=CC=C(C=C1)OC)=O | C16H15ClO3
reactant | 2-(N,N-dimethylamino)ethanethioamide | 5.39 g | CN(C)CC(N)=S | C4H10N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,5-bis(4-methoxyphenyl)-2-(N,N-dimethylaminomethyl)thiazole hydrochloride | 2.85 g | Cl.COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CN(C)C | InChI=1S/C20H22N2O2S.ClH/c1-22(2)13-18-21-19(14-5-9-16(23-3)10-6-14)20(25-18)15-7-11-17(24-4)12-8-15;/h5-12H,13H2,1-4H3;1H
